data/polar.json
{"reaction_name": "Enolate alkylation", "rsmi": "[CH2-:1][C:5]([CH3:2])=[O:4].[CH3:3][I:6]>>[CH2:1]([CH3:3])[C:5]([CH3:2])=[O:4].[I-:6]", "epd": [["LP-/Sigma+", [1], [1, 3]], ["Sigma-/LP+", [3, 6], [6]]]}
{"reaction_name": "Hunsdiecker-type decarboxylative bromination", "rsmi": "[Br:4][Br:5].[O-:1][C:3](=[O:6])[CH2:7][CH3:2]>>[Br-:5].[CH3:2][CH2:7][Br:4].[O:1]=[C:3]=[O:6]", "epd": [["Sigma-/Sigma+", [3, 7], [4, 7]], ["Sigma-/LP+", [4, 5], [5]], ["LP-/Pi+", [1], [1, 3]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:3]12[c:15]([n:7][o:24][n+:22]1[O-:4])[n:13][c:10]([O:18][CH3:11])[n:9][cH:20]2.[cH:1]1[c:25]([CH:12]=[C:16]2[S:6][c:21]3[cH:17][cH:8][cH:14][cH:5][c:19]3[N:29]2[CH3:23])[cH:2][cH:27][cH:28][cH:26]1>>[cH:1]1[c:25]([CH:12]([c:16]2[s:6][c:21]3[cH:17][cH:8][cH:14][cH:5][c:19]3[n+:29]2[CH3:23])[CH:20]2[c:3]3[c:15]([n:7][o:24][n+:22]3[O-:4])[N:13]=[C:10]([O:18][CH3:11])[N-:9]2)[cH:2][cH:27][cH:28][cH:26]1", "epd": [["LP-/Pi+", [29], [16, 29]], ["Pi-/Sigma+", [12, 16], [12, 20]], ["Pi-/LP+", [20, 9], [9]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[S:5]([c:9]1[cH:18][cH:13][cH:11][cH:16][cH:21]1)([C:17]([S:6]([c:10]1[cH:19][cH:14][cH:12][cH:15][cH:20]1)(=[O:23])=[O:24])=[CH2:8])(=[O:25])=[O:26].[cH:1]1[n:2][c:7]([O-:4])[cH:27][cH:3][cH:22]1>>[cH:1]1[n:2]([CH2:8][C-:17]([S:5]([c:9]2[cH:18][cH:13][cH:11][cH:16][cH:21]2)(=[O:25])=[O:26])[S:6]([c:10]2[cH:19][cH:14][cH:12][cH:15][cH:20]2)(=[O:23])=[O:24])[c:7](=[O:4])[cH:27][cH:3][cH:22]1", "epd": [["Pi-/Sigma+", [1, 2], [2, 8]], ["LP-/Pi+", [4], [4, 7]], ["Pi-/LP+", [8, 17], [17]], ["Pi-/Pi+", [3, 22], [1, 22]], ["Pi-/Pi+", [7, 27], [3, 27]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:2]1([CH:10]=[N+:9]=[N-:17])[cH:5][cH:3][cH:12][cH:4][cH:6]1.[cH:1]1[cH:7][cH:15][c:14]([N+:11](=[CH2:13])[CH3:18])[cH:16][cH:8]1>>[cH:1]1[cH:7][cH:15][c:14]([N:11]([CH2:13][CH:10]([c:2]2[cH:5][cH:3][cH:12][cH:4][cH:6]2)[N+:9]#[N:17])[CH3:18])[cH:16][cH:8]1", "epd": [["LP-/Pi+", [17], [9, 17]], ["Pi-/Sigma+", [10, 9], [10, 13]], ["Pi-/LP+", [13, 11], [11]]]}
{"reaction_name": "Julia–Kocienski olefination", "rsmi": "[CH2:2]([F:3])[C:5](=[O:6])[H:10].[S:1]([CH2-:4])(=[O:7])(=[O:8])[CH3:9]>>[CH2:2]([F:3])[C:5](=[CH2:4])[H:10].[S:1]([O-:6])(=[O:7])(=[O:8])[CH3:9]", "epd": [["LP-/Sigma+", [4], [4, 5]], ["Sigma-/LP+", [5, 6], [6]], ["Pi-/Sigma+", [5, 6], [1, 6]], ["Sigma-/Pi+", [1, 4], [4, 5]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][n+:11]1[o:38][n:25][c:16]2[c:23]3[n+:8]([O-:26])[o:3][n:29][c:24]3[c:27]([N+:6]([O-:34])=[O:40])[cH:21][c:46]12.[cH:2]1[cH:19][cH:32][c:41]([N:22]2[C:5](=[C:28]([c:4]3[cH:12][cH:42][cH:7][cH:43][cH:13]3)[O:9][CH3:44])[N:10]([c:49]3[cH:17][cH:36][cH:31][cH:37][cH:18]3)[N:45]=[C:35]2[c:30]2[cH:47][cH:14][cH:39][cH:15][cH:48]2)[cH:33][cH:20]1>>[O-:1][n+:11]1[o:38][n:25][c:16]2[c:46]1[CH:21]([C:28]([c:4]1[cH:12][cH:42][cH:7][cH:43][cH:13]1)([c:5]1[n+:10](-[c:49]3[cH:17][cH:36][cH:31][cH:37][cH:18]3)[n:45][c:35](-[c:30]3[cH:47][cH:14][cH:39][cH:15][cH:48]3)[n:22]1-[c:41]1[cH:32][cH:19][cH:2][cH:20][cH:33]1)[O:9][CH3:44])[C:27](=[N+:6]([O-:34])[O-:40])[c:24]1[c:23]-2[n+:8]([O-:26])[o:3][n:29]1", "epd": [["LP-/Pi+", [10], [5, 10]], ["Pi-/Sigma+", [28, 5], [28, 21]], ["Pi-/Pi+", [21, 27], [27, 6]], ["Pi-/LP+", [6, 40], [40]]]}
{"reaction_name": "Bischler–Möhlau indole synthesis", "rsmi": "[c:1]1([N:2]([H:10])[H:11])[cH:3][cH:4][cH:5][cH:6][c:7]([H:16])1.[CH3:8][C:9](=[O:12])[CH:13]([Cl:14])[H:15]>>[CH3:8][c:9]1[cH:13][n:2]([H:10])[c:7]2[cH:6][cH:5][cH:4][cH:3][c:1]12.[O:12]([H:11])[H:16].[Cl:14][H:15]", "epd": [["Sigma-/Sigma+", [1, 2], [1, 9]], ["Sigma-/Sigma+", [2, 11], [2, 7]], ["Sigma-/Pi+", [9, 12], [9, 13]], ["Pi-/Sigma+", [9, 12], [11, 12]], ["Sigma-/Sigma+", [13, 14], [2, 13]], ["Sigma-/Sigma+", [13, 15], [14, 15]], ["Sigma-/Sigma+", [7, 16], [12, 16]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:2](=[O+:25][CH3:24])[c:27]1[cH:11][cH:9][cH:8][cH:10][cH:12]1.[cH:1]1[cH:13][cH:21][c:5]([S:28](=[O:6])(=[O:7])[CH:15]=[C:23]2[CH:3]=[CH:18][C:26](=[N+:20]([O-:16])[O-:17])[CH:19]=[CH:4]2)[cH:22][cH:14]1>>[cH:1]1[cH:13][cH:21][c:5]([S:28](=[O:6])(=[O:7])[CH:15]([CH:2]([O:25][CH3:24])[c:27]2[cH:11][cH:9][cH:8][cH:10][cH:12]2)[c:23]2[cH:3][cH:18][c:26]([N+:20](=[O:16])[O-:17])[cH:19][cH:4]2)[cH:22][cH:14]1", "epd": [["LP-/Pi+", [16], [20, 16]], ["Pi-/Pi+", [26, 20], [19, 26]], ["Pi-/Pi+", [4, 19], [23, 4]], ["Pi-/Sigma+", [15, 23], [15, 2]], ["Pi-/LP+", [2, 25], [25]]]}
